* C:\Users\GuganSivakumar\Documents\Github\Wearable-BioNode\Design Docs\Simulation (LTspice)\TCXO PDN Filter.asc
* Generated by LTspice 26.0.2 for Windows.
X§C2_14pF 1V8_TCXO 0 GJM1555C1H140FB01_DC0V_25degC ;§pnba A)B
X§C3_24pF 1V8_TCXO P001 GRM0335C1H240GA01_DC0V_25degC ;§pnba A)B
V1 N001 0 1.8V AC 1 Rser=0.1
R1 N002 N001 6
X§C1_14pF 1V8_TCXO P002 GJM1555C1H140FB01_DC0V_25degC ;§pnba A)B
X§C2_33pF 1V8_TCXO P003 GCQ1555C1H330GB01_DC0V_25degC ;§pnba A)B
X§C3_100nF N002 0 GRM155R61H104KE19_DC1V8_25degC ;§pnba A)B
X§C4_100nF 1V8_TCXO P004 GRM155R61H104KE19_DC1V8_25degC ;§pnba A)B
X§C5_33pF 1V8_TCXO 0 GCQ1555C1H330GB01_DC0V_25degC ;§pnba A)B
X§C2_24pF 1V8_TCXO 0 GRM0335C1H240GA01_DC0V_25degC ;§pnba A)B
R3 P003 0 0.5
R4 1V8_TCXO N002 6
R2 P004 0 2
R5 P002 0 0.5
R6 P001 0 0.5
.include GRM033R61C104KE18_DC0V_25degC.mod
.include GJM1555C1H140FB01_DC0V_25degC.mod
.ac dec 1000 100 4GHz
.include GRM155R61H104KE19_DC1V8_25degC.mod
.include GCH155R61A474KE11_DC1V8_25degC.mod
.include GRM0335C1H240GA01_DC0V_25degC.mod
.include GCQ1555C1H330GB01_DC0V_25degC.mod
.backanno
.end
